US04922021
33.3 g/0.19 moles of potassium phthalimide are added to a solution of 30 g (89 mmoles) of 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-methanesulfonyloxy-propane in 300 ml of dry dimethyl formamide, and the mixture is stirred at 145°-150° C. for one hour. The mixture is cooled, poured onto 800 ml of ice water, and the aqueous mixture is extracted thrice with 200 ml of chloroform, each. The chloroform solution is washed thrice with 50 ml of n sodium hydroxide solution and then thrice with 100 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The oily residue is triturated with 35 ml of isopropanol, the separated crystalline substance is filtered off, washed with ice-cold isopropanol and dried. 22 g (64.1%) of 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-2-phthalimido-propane are obtained as a colourless, crystalline substance; m.p.: 124°-127° C.

reactant | potassium phthalimide | 0.19 moles | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-[N-(2,6-dimethylphenyl)-methane-sulfonamido]-2-methanesulfonyloxy-propane | 89 mmoles, 30 g | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CC(C)OS(=O)(=O)C | C13H21NO5S2
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-2-phthalimido-propane | 22 g, 64.1% | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CC(C)N1C(C=2C(C1=O)=CC=CC2)=O | C20H22N2O4S
